US08461348B2
ethyl 5-[3-(trifluoromethyl)phenyl]thiophene-2-carboxylate
Under a nitrogen atmosphere, to a mixed solvent of ethyl 5-bromothiophene-2-carboxylate (2.4 g, 10 mmol), 3-(trifluoromethyl)phenylboronic acid (2.9 g, 15 mmol) and sodium carbonate (2.1 g, 20 mmol) in water/1,4-dioxane (v/v=1/1, 10 mL) was added tetrakistriphenylphosphinepalladium (1.1 g, 1.0 mmol), and the mixture was stirred at 80° C. for 12 hr. The reaction mixture was cooled to room temperature, water was added and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The resulting crude title compound was purified by column chromatography (petroleum ether/ethyl acetate=60/1) to give the title compound (2.5 g, 83%) as colorless crystals.

reactant | ethyl 5-bromothiophene-2-carboxylate | 10 mmol, 2.4 g | BrC1=CC=C(S1)C(=O)OCC | C7H7BrO2S
reactant | 3-(trifluoromethyl)phenylboronic acid | 15 mmol, 2.9 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 20 mmol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | water 1,4-dioxane | 10 mL | O.O1CCOCC1
catalyst | tetrakistriphenylphosphinepalladium | 1.0 mmol, 1.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 5-[3-(trifluoromethyl)phenyl]thiophene-2-carboxylate | 2.5 g, 83% | FC(C=1C=C(C=CC1)C1=CC=C(S1)C(=O)OCC)(F)F | C14H11F3O2S
